US07612075B2
A. 2-Amino-4-(2-oxo-piperazin-1-ylmethyl)-benzonitrile.
To a solution of 4-(3-Amino-4-cyano-benzyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester hydrochloride (4.0 g, 10.0 mmol) in CH3OH (45 ml) and CH2Cl2 (10 ml) is added 10% Pd on carbon (0.6 g). The mixture is stirred under an atmosphere of H2 for 2 hours then is filtered through a pad of celite. The filtrate is concentrated and the residue purified by column chromatography eluting with 10% 7M NH3 in CH3OH/CH2Cl2 to yield the title compound (1.62 g, 7.0 mmol). 1H NMR (DMSO, 300 MHz) δ7.34 (d, 1H), 6.64 (s, 1H), 6.46 (d, 1H), 6.04 (bs, 2H), 4.40 (s, 2H), 3.28 (s, 2H), 3.14 (m, 2H), 2.87 (m, 2H), 2.77 (bs, 1H). MS (ion spray): m/z 231 (M+H)+.

reactant | 4-(3-Amino-4-cyano-benzyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester hydrochloride | 10.0 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC(=C(C=C1)C#N)N)=O
solvent | CH3OH | 45 ml | CO | CH4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd on carbon | 0.6 g | [Pd] | Pd
product | 2-Amino-4-(2-oxo-piperazin-1-ylmethyl)-benzonitrile | 7.0 mmol, 1.62 g | NC1=C(C#N)C=CC(=C1)CN1C(CNCC1)=O | C12H14N4O
